US08258122B2
d) tert-Butyl [1-(6,8-difluoro-7-iodo[1,2,4]triazolo[4,3-a]pyridin-3-yl)-1-methylethyl]carbamate
To a solution of tert-butyl [1-(6,8-difluoro[1,2,4]triazolo[4,3-a]pyridin-3-yl)-1-methylethyl]carbamate (1.32 g, 4.23 mmol) in tetrahydrofuran (20 mL) under argon atmosphere and at −78° C. was slowly added LiHMDS (1M in hexanes, 9.3 mL, 9.3 mmol). It was stirred at −78° C. for 45 min, afterwards a solution of iodine (1.13 g, 4.44 mmol) in tetrahydrofuran (10 mL) was added dropwise. The resulting mixture was stirred at −78° C. for 2 hours, warmed to 0° C. and diluted with aqueous sodium bisulphite (10 mL) and saturated ammonia chloride (10 mL). It was warmed to room temperature, extracted with ethyl acetate, dried over anhydrous sodium sulphate and concentrated under reduced pressure. The crude was purified by silica flash chromatography eluting with hexanes/ethyl acetate, using a gradient from 50% to 83% of ethyl acetate to yield the title compound (0.979 g, 53%) as a yellow solid.

reactant | tert-butyl [1-(6,8-difluoro[1,2,4]triazolo[4,3-a]pyridin-3-yl)-1-methylethyl]carbamate | 4.23 mmol, 1.32 g | FC=1C=C(C=2N(C1)C(=NN2)C(C)(C)NC(OC(C)(C)C)=O)F | C14H18F2N4O2
reactant | LiHMDS | 9.3 mmol, 1M, 9.3 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | iodine | 4.44 mmol, 1.13 g | II | I2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | sodium bisulphite | 10 mL | S([O-])(O)=O.[Na+]
solvent | ammonia chloride | 10 mL | [Cl-].N
product | tert-Butyl [1-(6,8-difluoro-7-iodo[1,2,4]triazolo[4,3-a]pyridin-3-yl)-1-methylethyl]carbamate | 0.979 g, 53% | FC=1C(=C(C=2N(C1)C(=NN2)C(C)(C)NC(OC(C)(C)C)=O)F)I | C14H17F2IN4O2
